US06265349B1
Preparation of 3-(7-chloro-5-fluoro-2-methylthiomethylbenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone (Compound No. 4-44)
0.31 g (0.71 mmol) of 3-(2-bromomethyl-7-chloro-5-fluorobenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone was dissolved in 20 ml of THF, and 0.014 g (0.85 mmol) of a methanethiol 30% methanol solution and 0.12 g (0.85 mmol) of potassium carbonate were added thereto, followed by stirring at room temperature for 8 hours. THF was distilled off under reduced pressure. Then, the obtained residue was poured into water and extracted with ethyl acetate. After washing with water, the organic layer was dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure. Then, the obtained crude crystals were washed with n-hexane to obtain 0.28 g (yield: 98%) of the desired product. 1H-NMR (300 MHz, CDCl3) δ value: 2.17(3H,s), 3.73(3H,s), 3.79(2H,s), 6.47(1H,s), 6.80(1H,d), 7.14(1H,d), 7.54(1H,d)ppm.

reactant | 3-(2-bromomethyl-7-chloro-5-fluorobenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone | 0.71 mmol, 0.31 g | BrCC=1OC2=C(C1)C(=C(C=C2Cl)F)C=2C(N(C(=CC2)C(F)(F)F)C)=O | C16H9BrClF4NO2
reactant | methanethiol | 0.85 mmol, 0.014 g | CS | CH4S
reactant | potassium carbonate | 0.85 mmol, 0.12 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-(7-chloro-5-fluoro-2-methylthiomethylbenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone | 0.28 g, yield: 98% | ClC1=CC(=C(C=2C=C(OC21)CSC)C=2C(N(C(=CC2)C(F)(F)F)C)=O)F | C17H12ClF4NO2S
